US06346534B1
2-(2,5-Dimethyl-3-furyl)-1-{N-methyl-N-[2-(2-pyridyl)ethyl]aminomethyl}-6-ethoxycarbonyl-4-(2-fluorophenylmethyl)pyrrolo[1,2-a]pyrimid-7-one
2-(2,5-Dimethyl-3-furyl)-6-ethoxycarbonyl-4-(2-fluorophenylmethyl)-pyrrolo[1,2-a]pyrimid-7-one (50 mg, 122 umol) was added into a solution of formaldehyde (5 μL, 184 μmol) and a secondary amine (184 μmol) in acetic acid (2 mL). The resulting solution was stirred at room temperature for ten minutes, and then 50° C. for another ten minutes. HOAc was evaporated and the residue was diluted with DCM and purified by prep-TLC (MeOH/DCM−1:9) to yield the desired product, which was characterized by proton NMR and mass spectra.

reactant | 2-(2,5-Dimethyl-3-furyl)-6-ethoxycarbonyl-4-(2-fluorophenylmethyl)-pyrrolo[1,2-a]pyrimid-7-one | 122 umol, 50 mg | CC=1OC(=CC1C1=NC=2N(C(=C1)CC1=C(C=CC=C1)F)C(C(C2)=O)C(=O)OCC)C | C23H21FN2O4
reactant | formaldehyde | 184 μmol, 5 μL | C=O | CH2O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-(2,5-Dimethyl-3-furyl)-1-{N-methyl-N-[2-(2-pyridyl)ethyl]aminomethyl}-6-ethoxycarbonyl-4-(2-fluorophenylmethyl)pyrrolo[1,2-a]pyrimid-7-one | CC=1OC(=CC1C1N(C=2N(C(=C1)CC1=C(C=CC=C1)F)C(C(C2)=O)C(=O)OCC)CN(CCC2=NC=CC=C2)C)C | C32H35FN4O4
